US07442803B2
6.0 g (23.7 mmol) of 9-phenylanthracene was dissolved into 80 mL of carbon tetrachloride, and a solution in which 3.80 g (21.1 mmol) of bromine was dissolved in 10 mL of carbon tetrachloride was dropped into the reaction solution using a dropping funnel. After dropping, the solution was stirred for 1 hour at a room temperature. After the reaction, an aqueous sodium thiosulfate solution was added to stop the reaction. An organic layer was washed with an aqueous sodium hydroxide (NaOH) solution and a saturated sodium chloride solution and dried with magnesium sulfate. The mixture was naturally filtered, and a compound obtained by concentrating the filtrate was dissolved into toluene and filtered through florisil, Celite®, and alumina. The filtrate was concentrated and recrystallized with dichloromethane and hexane, thereby obtaining 7.0 g of objective 10-bromo-9-phenylanthracene as a light-yellow solid with a yield of 89%.

reactant | 9-phenylanthracene | 23.7 mmol, 6.0 g | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
reactant | bromine | 21.1 mmol, 3.80 g | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 10-bromo-9-phenylanthracene | 7.0 g, yield of 89% | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=CC=C1 | C20H13Br
